US04049650
To a stirred, cooled solution of 4-chloroacetophenone (100 g, 0.65 mole), anhydrous ether (650 ml) and dioxane (325 ml) was added bromine (35 ml, 0.65 mole) dropwise over a period of 1.25 hours, keeping the temperature at 20° C. (±5° C.). The solution was then washed with water (3 × 1 l). The collected ether layer was dried over magnesium sulfate and the ether solution was evaporated under reduced pressure to give a solid. The solid was washed with water, collected by filtration, and air-dried to give the α-bromo-4-chloroacetophenone.

reactant | 4-chloroacetophenone | 0.65 mole, 100 g | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | ether | 650 ml | CCOCC | C4H10O
reactant | bromine | 0.65 mole, 35 ml | BrBr | Br2
solvent | dioxane | 325 ml | O1CCOCC1 | C4H8O2
product | α-bromo-4-chloroacetophenone | C1=CC(=CC=C1C(=O)CBr)Cl | C8H6BrClO
